datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54>>C[C+:11]([CH2:10][CH:20]1C[O:33][C:22]([O-:23])=[CH:21]1)[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"C1C[CH:10]=[C:11]([N:12]2CCOCC2)C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2CCC[C:11]2=[N+:12]2CCOCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61]([CH-:10][C:81](C1=CC=CC=C1)=[O:82])=[O:62].C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>CC[O:72][C:61]([CH:10]([CH:20]1CCC[C:22]([O-:23])=[C:21]1C)[C:81](C1=CC=CC=C1)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.[S:10]=[C:11]1[CH:12]=[CH:13]/[C:14](=[N+:15](\[O-:16])[O-:66])[CH:73]=[CH:72]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([S:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:66])[CH:73]=[CH:72]2)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CC[Si:63](C)(CC)[CH2:62][C:11](C1=CC=CC=C1)(C1=CC=CC=C1)[H:10].N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>CC[Si:63](C)(CC)[CH2:62][C+:11](C1=CC=CC=C1)C1=CC=CC=C1.N#C[C:20]1([H:10])[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"CCCN[C:62]([C@@H:61]1CCC[NH:10]1)=[O:63].COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1>>CCCN[C:62]([C@@H:61]1CCC[NH+:10]1[CH:20]([CH:21]=[C:22](C1=[N+](C2=CC=C(OC)C=C2)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:63] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.C[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62]>>C[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[C:20]([S-:21])=[N:31]C1=CC=CC=C1)=[O:62] 10,11=10,20;12=11,12;20,21=21"
"CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21>>CC[O:72][C:61]([C:10]([CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][C:33]2=[C:34]3N(CCC2)CCC[C:35]3=[CH:36]1)([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62] 10=20;20,21=21,22;22,23=23"
"C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>C[C:10]([C:11]#[N:12])([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1)[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1 10,11=10,20;12=11,12;20,21=21"
"C[CH:10]=[C:11](C)C.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[CH:10]([C+:11](C)C)[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;20,21=21,22;22,23=23"
"CCCC[CH:11]=[CH2:10].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1>>CCCC[CH+:11][CH2:10][CH:20]([C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:56]=[CH:55]1 10,11=10,20;20,21=21"
"CC[Ge:63](CC)(CC)[CH2:62][CH2:11][H:10].CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32]>>CC[Ge:63](CC)(CC)[CH2:62][CH2+:11].CC[O:33][C:31]([C:20]1([H:10])CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[NH:10][NH:61]C>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([NH+:10](C)[NH:61]C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]1[S:20]C(F)(F)F 10=20;20,21=21,22;22,23=23"
"[CH:10]1=[CH:11][CH:12]=[C:13]([B-:64]([F:65])([F:75])[F:85])[O:14]1.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>[CH:10]1([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:11]=[CH:12][C:13]([B-:64]([F:65])([F:75])[F:85])=[O+:14]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21.C[Si:63](C)(C)[CH2:62][CH:11]=[CH2:10]>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23"
